US05571825
Following the procedure of Example 4, 4,4'-dimethylbenzhydrol, synthesized in accordance with M. R. Pavia, et. al. in J. Med. Chem. 35, 4238 (1992), is reacted with methyl thioglycolate for 18 hours at room temperature. Chromatography on silica gel, eluting with 10% ethyl acetate in hexane, gives methyl [[bis-(4-methylphenyl)methyl]thio]acetate as a colorless oil in 73% yield.

reactant | 4,4'-dimethylbenzhydrol | CC1=CC=C(C(C2=CC=C(C=C2)C)O)C=C1 | C15H16O
reactant | methyl thioglycolate | C(CS)(=O)OC | C3H6O2S
product | methyl [[bis-(4-methylphenyl)methyl]thio]acetate | 73% yield | CC1=CC=C(C=C1)C(SCC(=O)OC)C1=CC=C(C=C1)C | C18H20O2S
